US08460862B2
To a stirred solution of N—BOC—N′-methylethylenediamine and N—BOC—N-methylethylenediamine (1:1, 1.73 g, 4.96 mmol each) in MeOH (50 mL) were added decanal (9.31 g, 59.6 mmol) followed by sodium cyanoborohydride (585 mg, 9.31 mmol) at room temperature. The reaction was stirred overnight at room temperature. The reaction was concentrated on a rotevaporator and the concentrate was diluted with water (50 mL). The pH was lowered to ˜2 with 6 N HCl and the acidic solution was extracted with ethylacetate (3×100 mL). The amine products were extracted into the organic phase. The ethylacetate portion was washed with 0.1 N NaOH (1×100 mL) and brine (2×100 mL) and the solvent was removed. The resulting liquid was dried overnight in vacuo at room temperature. The product was isolated by column chromatography on silica gel column (4×15 cm). Side products were eluted from the column with land 2% MeOH in CH2Cl2 then the product was eluted with 5 and 10% MeOH in CH2Cl2. The solvent was removed from the product fractions and the residue was dried in vacuo at rt to yield N—BOC—N′-decyl-N′-methylethylenediamine as a pale yellow solid (470 mg, 21%): TLC (silica gel, 1 MeOH:9 CH2Cl2) Rf=0.6; 1H NMR (DMSO-d6) δ 0.82 (t, 3H), 1.23 (s, 16H), 1.35 (s, 9H), 2.10 (s, 3H), 2.25 (m, 4H), 2.95 (m, 2H), 6.80 (s, 1H).

reactant | N—BOC—N′-methylethylenediamine | C(=O)(OC(C)(C)C)NCCNC | C8H18N2O2
reactant | N—BOC—N-methylethylenediamine | 4.96 mmol, 1.73 g | C(=O)(OC(C)(C)C)N(CCN)C | C8H18N2O2
reactant | decanal | 59.6 mmol, 9.31 g | C(CCCCCCCCC)=O | C10H20O
reactant | sodium cyanoborohydride | 9.31 mmol, 585 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | N—BOC—N′-decyl-N′-methylethylenediamine | 470 mg, 21% | C(=O)(OC(C)(C)C)NCCN(C)CCCCCCCCCC | C18H38N2O2
